US07626056B2
8-[(Cyclopropylmethyl)thio]-1,4-dioxaspiro[4.5]decane (14.1 g, 61.7 mmol) was added to a stirred mixture of 1M hydrochloric acid (120 ml, 120 mmol) and acetone (300 ml) and the mixture was stirred at room temperature overnight. The acetone was removed by evaporation and the residue was extracted with ethyl acetate and washed with water, dried and evaporated to yield an oil used unpurified in the next step. 4-[(cyclopropylmethyl)thio]cyclohexanone (11.5 g, 62.4 mmol, 100% yield)

reactant | 8-[(Cyclopropylmethyl)thio]-1,4-dioxaspiro[4.5]decane | 61.7 mmol, 14.1 g | C1(CC1)CSC1CCC2(OCCO2)CC1 | C12H20O2S
reactant | hydrochloric acid | 120 mmol, 1M, 120 ml | Cl | ClH
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 4-[(cyclopropylmethyl)thio]cyclohexanone | 62.4 mmol, 11.5 g, 100% yield | C1(CC1)CSC1CCC(CC1)=O | C10H16OS
